US07696352B2
5-Chloro-N-((1-(5-(2-oxopyridin-1(2H)-yl)pyridin-2-yl)-1H-imidazol-4-yl)methyl)thiophene-2-carboxamide (45)
A mixture of N-((1-(5-bromopyridin-2-yl)-1H-imidazol-4-yl)methyl)-5-chlorothiophene-2-carboxamide (42 mg, 0.11 mmol), 2-hydroxypyridine (40 mg, 0.42 mmol), N,N′-dimethylethylenediamine (0.035 mL, 0.32 mmol) and K2CO3 (52 mg, 0.38 mmol) in DMSO (1 mL) and dioxane (1 mL) was degassed with Argon before being charged with CuI (23 mg, 0.12 mmol). The mixture was heated at 110° C. overnight in a sealed tube. It was then purified by HPLC to give the title compound (3 mg). MS found for C19H14ClN5O2S: 412.2 and 414.2 (M+H, Cl pattern).

reactant | N-((1-(5-bromopyridin-2-yl)-1H-imidazol-4-yl)methyl)-5-chlorothiophene-2-carboxamide | 0.11 mmol, 42 mg | BrC=1C=CC(=NC1)N1C=NC(=C1)CNC(=O)C=1SC(=CC1)Cl | C14H10BrClN4OS
reactant | 2-hydroxypyridine | 0.42 mmol, 40 mg | OC1=NC=CC=C1 | C5H5NO
reactant | N,N′-dimethylethylenediamine | 0.32 mmol, 0.035 mL | CNCCNC | C4H12N2
reactant | K2CO3 | 0.38 mmol, 52 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.12 mmol, 23 mg | [Cu]I
product | 5-Chloro-N-((1-(5-(2-oxopyridin-1(2H)-yl)pyridin-2-yl)-1H-imidazol-4-yl)methyl)thiophene-2-carboxamide | 3 mg | ClC1=CC=C(S1)C(=O)NCC=1N=CN(C1)C1=NC=C(C=C1)N1C(C=CC=C1)=O | C19H14ClN5O2S
